US04568672
A solution of 7.7 g of diazopropane in ether is added in portions to a solution of 28.8 g of 2,3-dihydro-6-(4-chlorophenylthio)-2-thioxo-4H-1,3,5-thiadiazin-4-one in 250 ml of tetrahydrofuran at 22° C. The solvent is distilled off, the residue is taken up in a small amount of methanol, and the precipitate is filtered off under suction, washed with methanol and dried. 21.9 g of 3-propyl-6-(4-chlorophenylthio)-2-thioxo-1,3,5-thiadiazin-4-one are obtained in the form of yellow crystals of melting point 151°-152° C.

reactant | diazopropane | 7.7 g | [N+](=[N-])=CCC | C3H6N2
reactant | 2,3-dihydro-6-(4-chlorophenylthio)-2-thioxo-4H-1,3,5-thiadiazin-4-one | 28.8 g | ClC1=CC=C(C=C1)SC1=NC(NC(S1)=S)=O | C9H5ClN2OS3
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 3-propyl-6-(4-chlorophenylthio)-2-thioxo-1,3,5-thiadiazin-4-one | 21.9 g | C(CC)N1C(SC(=NC1=O)SC1=CC=C(C=C1)Cl)=S | C12H11ClN2OS3
